US06201027B1
3,5-Dichloro-4-(methylsulfonyl)benzoic acid ethyl ester
3,5-Dichloro-4-[(carboxymethyl)sulfonyl]benzoic acid ethyl ester (3.1 g) was mixed with toluene (100 mL) and pyridine (1.0 mL) and the mixture was refluxed for 30 min and then evaporated to dryness (yield 2.6 g). 1H-NMR (400 MHz, DMSO-d6) d=1.34 (t, J=7.0 Hz, 3H), 3.51 (s, 3H), 4.37 (q, J=7.0 Hz, 2H), 8.05 (s, 2H).

reactant | 3,5-Dichloro-4-[(carboxymethyl)sulfonyl]benzoic acid ethyl ester | 3.1 g | C(C)OC(C1=CC(=C(C(=C1)Cl)S(=O)(=O)CC(=O)O)Cl)=O | C11H10Cl2O6S
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | 3,5-Dichloro-4-(methylsulfonyl)benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)Cl)S(=O)(=O)C)Cl)=O | C10H10Cl2O4S
